US04351832
2-[4-(Benzothiazol-2-yl)-1-piperazinyl]-6,7,8-trimethoxy-4-quinazolinamine (Ia: R3 =benzothiazol-2-yl; R4, R5, R6 and R9 =H; R7 and R8 =OMe; and n=1)
A mixture of 4-amino-2-(1-piperazinyl)-6,7,8-trimethoxyquinazoline hydrochloride (4.0 g) and triethylamine (4.1 g) in butanol (250 ml) was stirred for 15 min and 2-chlorobenzthiazole (1.7 g) was added. The resulting mixture was refluxed for 20 hr, concentrated to about 150 ml, cooled and filtered. The precipitate was washed with water, dried and crystallized from methanol to give the title compound (2.2 g): mp>250° C.; ir (nujol) 3370, 3300 and 3610 cm-1 ; uv max (MeOH) 225 (ε=45,900), 250 (ε=56,700), 277 (ε=45,200) and 353 nm (ε=5,100); nmr (DMSO-d6) δ3.7 (m, 8H), 3.8 (s, 6H), 3.95 (s, 3H) and 7.3 (m, 7H); and Anal. Calcd. for C22H24N6O3S: C, 58.40% H, 5.30% N, 18.58% and Found: C, 58.22% H, 5.50% N, 18.62%.

reactant | 4-amino-2-(1-piperazinyl)-6,7,8-trimethoxyquinazoline hydrochloride | 4.0 g | Cl.NC1=NC(=NC2=C(C(=C(C=C12)OC)OC)OC)N1CCNCC1
reactant | triethylamine | 4.1 g | C(C)N(CC)CC | C6H15N
reactant | 2-chlorobenzthiazole | 1.7 g | ClC=1SC2=C(N1)C=CC=C2 | C7H4ClNS
solvent | butanol | 250 ml | C(CCC)O | C4H10O
product | 2-[4-(Benzothiazol-2-yl)-1-piperazinyl]-6,7,8-trimethoxy-4-quinazolinamine | 2.2 g | S1C(=NC2=C1C=CC=C2)N2CCN(CC2)C2=NC1=C(C(=C(C=C1C(=N2)N)OC)OC)OC | C22H24N6O3S
